US06809199B2
2-isopropyl-2,5-diazabicyclo[2.2.1]heptane (INTERMEDIATE ABA2) (35 μL, ca. 0.249 mmol) and diisopropylethylamine (32 mg, 0.249 mmol) were added to a mixture of 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-2-oxo-1,2,3,4-tetrahydroquinazoline-7-sulfonyl chloride (103 mg, 0.166 mmol) (COMPOUND CCC8) in 2 mL THF at 0° C. The mixture was warmed to rt, stirred at this temperature for 0.5 h, and concentrated under reduced pressure. The residue was diluted with ethyl acetate and added to 6 mL of 1M aqueous HCl The phases were separated and the aqueous was extracted with 3×15 mL of ethyl acetate. The combined organic layers were washed with brine, dried (Na2SO4), and concentrated under reduced pressure. The product was purified by preparative thin-layer chromatography, eluting with 93:7 CH2Cl2-methanol to yield the 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-[(5-isopropyl-2,5-diazabicyclo[2.2.1]hept-2-yl)sulfonyl]-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one. Mass spectrum (ESI) 725 (M+1).

reactant | 2-isopropyl-2,5-diazabicyclo[2.2.1]heptane | ca. 0.249 mmol, 35 μL | C(C)(C)N1C2CNC(C1)C2 | C8H16N2
reactant | diisopropylethylamine | 0.249 mmol, 32 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-2-oxo-1,2,3,4-tetrahydroquinazoline-7-sulfonyl chloride | 0.166 mmol, 103 mg | ClC1=C(C=CC=C1)C1=C2CN(C(N(C2=CC(=C1)S(=O)(=O)Cl)C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC | C28H20Cl4N2O4S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-[(5-isopropyl-2,5-diazabicyclo[2.2.1]hept-2-yl)sulfonyl]-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2CN(C(N(C2=CC(=C1)S(=O)(=O)N1C2CN(C(C1)C2)C(C)C)C2=C(C=CC=C2Cl)Cl)=O)CC2=CC=C(C=C2)OC | C36H35Cl3N4O4S
